US05587112
The 9-ethylcarbazole (13.0 g, 0.0428 mole) and copper(I) cyanide (4.60 g, 0.0513 mole) in 15 ml of N,N-dimethylformamide were boiled under reflux for 19 hours with powerful magnetic stirring. All dissolved within 40 min. When cooled to ≈60° the mixture was treated with a solution of 10.5 g of potassium cyanide in 35 ml of water, and stirred 1 hour. The solid was filtered, the lumps being broken up, washed on the Buchner with 250 ml of water, and dried to give 11.0 g of crude 2-cyano-9-ethyl-3-methoxy carbazole, m.p. 145°-155°. This was extracted from a Soxhlet overnight with 250 ml of heptane and the extract was cooled in ice to give 9.70 g (91%), m.p. 148°-155.5°. TLC on MK6F Silca Gel, t-butyl methyl ether, UV showed 5-10% of a non-fluorescent impurity at Rf=0.65 and 90-95% ArCN with a blue fluorescence at Rf=0.69. This was used in the next reaction.

reactant | 9-ethylcarbazole | 0.0428 mole, 13.0 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | copper(I) cyanide | 0.0513 mole, 4.60 g | [Cu]C#N
reactant | potassium cyanide | 10.5 g | [C-]#N.[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 35 ml | O | H2O
product | 2-cyano-9-ethyl-3-methoxy carbazole | 11.0 g | C(#N)C1=CC=2N(C3=CC=CC=C3C2C=C1OC)CC | C16H14N2O
